US08471005B2
Into a 8 dram vial, [2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester (0.150 g, 0.315 mmol), Methylene chloride (5 mL) and Trifluoroacetic Acid (1 g, 9 mmol) were added and stirred at room temperature over night. The reaction was partitioned with Sat. NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The desired product was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded (4-Morpholin-4-yl-phenyl)-[7-(1,2,3,6-tetrahydro-pyridin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine as a yellow solid.

reactant | [2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.315 mmol, 0.150 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C26H34N6O3
reactant | Trifluoroacetic Acid | 9 mmol, 1 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | Methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (4-Morpholin-4-yl-phenyl)-[7-(1,2,3,6-tetrahydro-pyridin-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2CCNCC2 | C21H24N6O
